US04649146
A mixture of ethyl 2-methylamino-5-(4-pyridyl)-4-thiazolecarboxylate (2.63 g), 2-aminomethyl-1-ethylpyrrolidine (2.6 g) in a mixture of ethyleneglycol (10 ml) and conc. HCl (0.5 ml) was stirred at 80° C. for 6 hours. The reaction mixture was poured into water and the resultant solution was extracted with ethyl acetate. The organic extract was washed with brine and dried over magnesium sulfate. The solvent was evaporated in vacuo and the residue was subjected to column chromatography on alumina eluting with a mixture of diisopropylether and ethylacetate (1:1) and the fractions containing the desired compound were combined and evaporated in vacuo to give 2-methylamino-5-(4-pyridyl)-4-[(1-ethyl-2-pyrrolidinyl)methylcarbamoyl]thiazole (1.5 g). mp 76°-8° C.

reactant | ethyl 2-methylamino-5-(4-pyridyl)-4-thiazolecarboxylate | 2.63 g | CNC=1SC(=C(N1)C(=O)OCC)C1=CC=NC=C1 | C12H13N3O2S
reactant | 2-aminomethyl-1-ethylpyrrolidine | 2.6 g | NCC1N(CCC1)CC | C7H16N2
reactant | HCl | 0.5 ml | Cl | ClH
reactant | water | O | H2O
solvent | ethyleneglycol | 10 ml | C(CO)O | C2H6O2
product | 2-methylamino-5-(4-pyridyl)-4-[(1-ethyl-2-pyrrolidinyl)methylcarbamoyl]thiazole | 1.5 g | CNC=1SC(=C(N1)C(NCC1N(CCC1)CC)=O)C1=CC=NC=C1 | C17H23N5OS
